US20010027208A1
A 2.00 g (13.1 mmol) portion of 3,5-diaminobenzoic acid was dissolved in a mixed solvent of 20 ml THF and 20 ml water, and the solution was mixed with 6.88 g (31.5 mmol) of di-tert-butyl dicarbonate, adjusted to pH 7 to 8 with a saturated sodium bicarbonate aqueous solution and then stirred at room temperature for 4 hours. The reaction solution was mixed with a 10% citric acid aqueous solution and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine and dried with anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform/methanol=10/1) to obtain 3.93 g (yield, 85%) of 3,5-di-(tert-butoxycarbonylamino)benzoic acid.

reactant | 3,5-diaminobenzoic acid | NC=1C=C(C(=O)O)C=C(C1)N | C7H8N2O2
reactant | di-tert-butyl dicarbonate | 31.5 mmol, 6.88 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 3,5-di-(tert-butoxycarbonylamino)benzoic acid | 3.93 g, 85% | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)O)C=C(C1)NC(=O)OC(C)(C)C | C17H24N2O6
